US05296495
To a cooled mixture of 2-hydroxy-5-methoxybenzaldehyde (500.0 g), potassium carbonate (908.4 g) and potassium iodide (272.8 g) in N,N-dimethylformamide (2.5 l) chloroacetonitrile (297.7 g) was added dropwise over 8 minutes below 10° C. under nitrogen. After being stirred at ambient temperature for 110 minutes, the mixture was poured slowly into ice-water (20 l) and stirred for 2 hours. The precipitates were cooled by centrifugal filtration, washed with water (1 l) 7 times and air-dried at ambient temperature to give 2-cyanomethoxy-5-methoxybenzaldehyde (571.4 g).

reactant | 2-hydroxy-5-methoxybenzaldehyde | 500.0 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | potassium carbonate | 908.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 272.8 g | [I-].[K+]
reactant | N,N-dimethylformamide | 2.5 l, 297.7 g | CN(C=O)C | C3H7NO
product | 2-cyanomethoxy-5-methoxybenzaldehyde | 571.4 g | C(#N)COC1=C(C=O)C=C(C=C1)OC | C10H9NO3
